US06974831B2
D. Preparation of 2-acetyl-1-benzyl-4-methoxy-6,7,8,9-tetrahydro-1H-benz[g]indole
To a solution of 1-benzyl-2-carboethoxy-4-methoxy-6,7,8,9-tetrahydro-1H-benz[g]indole (1.01 g, 2.77 mmol) in tetrahydrofuran (8 mL) cooled to 0° C. was added 0.5 M Tebbe Reagent in toluene (6.5 mL, 3.3 mmol). The mixture was stirred for 1 h at 2° C. then diluted with diethyl ether (32 mL) and treated with 2 N aqueous sodium hydroxide solution (2 mL) over 30 min. The mixture was diluted with excess saturated sodium bicarbonate solution and filtered through a pad of silica gel. The filtrate was concentrated in vacuo and the resulting residue triturated with 1:1 ether/hexanes. The resulting material was dissolved in 4:1 acetone/methylene chloride (5 mL) and treated with 1 N hydrochloric acid (1 mL). After standing for 20 min the mixture was diluted with saturated sodium bicarbonate solution, concentrated in vacuo, and partitioned between methylene chloride and water. The organic layer was separated, dried (sodium sulfate), filtered, and concentrated in vacuo. Purification of the residue by chromatography (silica gel, methylene chloride) provided 673 mg (73%) of the title compound as a brown film. 1H NMR (CDCl3) δ 7.49 (s, 1H), 7.15 (m, 3H), 6.78 (d, J=7 Hz, 2H), 6.24 (s, 1H), 6.11 (bs, 2H), 3.91 (s, 3H), 2.95 (m, 2H), 2.84 (m, 2H), 2.52 (s, 2H), 1.69 (m, 4H); MS ES+ m/e 334 (p+1); IR (KBr, cm−1) 3400, 2813, 1593, 1292.

reactant | 1-benzyl-2-carboethoxy-4-methoxy-6,7,8,9-tetrahydro-1H-benz[g]indole | 2.77 mmol, 1.01 g | C(C1=CC=CC=C1)N1C(=CC2=C(C=C3C(=C12)CCCC3)OC)C(=O)OCC | C23H25NO3
reactant | toluene | 3.3 mmol, 6.5 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 2 N, 2 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 32 mL | C(C)OCC | C4H10O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | Tebbe Reagent | 0.5 M | [CH3-].C[Al+]C.[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Cl-].[Ti+3]
product | 2-acetyl-1-benzyl-4-methoxy-6,7,8,9-tetrahydro-1H-benz[g]indole | 673 mg, 73% | C(C)(=O)C=1N(C2=C3C(=CC(=C2C1)OC)CCCC3)CC3=CC=CC=C3 | C22H23NO2
